US04775692
n-Butyl lithium (1.58N, 52.5 ml, 83 mmol) was added dropwise to a stirred solution of dimethyl methylphosphonate (10.3 g, 83 mmol) in 100 ml of anhydrous THF at -78° C. under argon atmosphere. After 30 minutes, methyl o-methylbenzoate (5.0 g, 33 mmol) in 10 ml of anhydrous THF was added dropwise. After being stirred for 30 minutes, this reaction mixture was allowed to warm to 0° C., diluted with 5 ml of acetic acid and 10 ml of water, and concentrated. 20 ml of water was added and the mixture was extracted with ethyl acetate (50 ml×2). The combined ethyl acetate layers were washed with water (20 ml×1) and brine (20 ml×1), dried over anhydrous sodium sulfate, and concentrated. The residue was distilled under reduced pressure to give an oil of dimethyl 2-o-methylphenyl-2-oxoethylphosphonate (68 g, 28.1 mmol, yield 85.1%, b.p. 134°-136° C./0.21 mmHg), which was assigned the structure by the following data:

reactant | n-Butyl lithium | 83 mmol, 1.58N, 52.5 ml | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 83 mmol, 10.3 g | CP(OC)(OC)=O | C3H9O3P
reactant | methyl o-methylbenzoate | 33 mmol, 5.0 g | CC1=C(C(=O)OC)C=CC=C1 | C9H10O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | dimethyl 2-o-methylphenyl-2-oxoethylphosphonate | 28.1 mmol, 68 g, yield 85.1% | CC1=C(C=CC=C1)C(CP(OC)(OC)=O)=O | C11H15O4P
